US08957066B2
A 4 M solution of HCl in dioxane (5 mL) was added to a solution of tert-butyl 3-(2-chloro-4-(methoxycarbonyl)benzylidene)azetidine-1-carboxylate (0.27 g, 0.66 mmol) in dioxane:DCM (1:1 v/v, 10 mL) and the mixture was stirred at room temperature for 3 h. Salt precipitation was observed. The reaction mixture was diluted with diethyl ether (20 mL). The precipitate was filtered, washed with ether and dried overnight to get the HCl salt of methyl 4-(azetidin-3-ylidenemethyl)-3-chlorobenzoate (0.12 g) as an off-white solid. ES+(M+H)+238

reactant | HCl | Cl | ClH
reactant | tert-butyl 3-(2-chloro-4-(methoxycarbonyl)benzylidene)azetidine-1-carboxylate | 0.66 mmol, 0.27 g | ClC1=C(C=C2CN(C2)C(=O)OC(C)(C)C)C=CC(=C1)C(=O)OC | C17H20ClNO4
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane DCM | 10 mL | O1CCOCC1.C(Cl)Cl
product | methyl 4-(azetidin-3-ylidenemethyl)-3-chlorobenzoate | 0.12 g | N1CC(C1)=CC1=C(C=C(C(=O)OC)C=C1)Cl | C12H12ClNO2
